US08097759B2
5-Bromo-2-hydroxy-N-phenylbenzamide (Compound No. 139)
Using 5-bromosalicylic acid and aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 5-Bromo-2-hydroxy-N-phenylbenzamide | Yield: 68.8% | BrC=1C=CC(=C(C(=O)NC2=CC=CC=C2)C1)O | C13H10BrNO2
